US08008298B2
To a solution of 2,2-dimethyl-1-[2-[3-(2-methylsulfanyl-ethoxy)-5-pyrrolidin-1-yl-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one (82 mg, 0.14 mmol) in 20% water/acetone (3 ml) was added 4-methylmorpholine n-oxide (50 mg, 0.43 mmol) followed by addition of aqueous OsO4 solution (0.01 ml, catalytic). After 8 hours stirring a solution of 5% aqueous sodium bisulfite (25 ml) was added followed by CH2Cl2 (25 ml). The material was partitioned and the organic phase collected and then washed with brine (25 ml). The aqueous phases were back-extracted with methylene chloride (2×25 ml), the organic phases combined, dried (MgSO4), filtered and stripped to provide a crude remainder. The material was loaded onto 1 preparative TLC plate, eluting with 40% ethyl acetate in hexanes. The product band was collected to afford 75 mg of 1-[2-[3-(2-methanesulfonyl-ethoxy)-5-pyrrolidin-1-yl-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow viscous oil.

reactant | 2,2-dimethyl-1-[2-[3-(2-methylsulfanyl-ethoxy)-5-pyrrolidin-1-yl-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.14 mmol, 82 mg | CC(C(=O)C1=CN(C2=NC=C(N=C21)C2=CC(=CC(=C2)N2CCCC2)OCCSC)COCC[Si](C)(C)C)(C)C | C30H44N4O3SSi
reactant | sodium bisulfite | 25 ml | S([O-])(O)=O.[Na+]
reactant | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water acetone | 3 ml | O.CC(=O)C
catalyst | OsO4 | 0.01 ml | O=[Os](=O)(=O)=O
product | 1-[2-[3-(2-methanesulfonyl-ethoxy)-5-pyrrolidin-1-yl-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 75 mg | CS(=O)(=O)CCOC=1C=C(C=C(C1)N1CCCC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C30H44N4O5SSi
